US04464300
By cyclizing 3-[(2-amino-5-nitrophenyl)(2-chlorophenyl)methylthio]propionic acid hydrochloride in analogy to Example 1(c), but in tetrahydrofuran and using ethyl chloroformate and pyridine, there is obtained 6-(2-chlorophenyl)-1,3,4,6-tetrahydro-8-nitro-2H-5,1-benzothiazocin-2-one of melting point 285°.

reactant | 3-[(2-amino-5-nitrophenyl)(2-chlorophenyl)methylthio]propionic acid hydrochloride | Cl.NC1=C(C=C(C=C1)[N+](=O)[O-])C(SCCC(=O)O)C1=C(C=CC=C1)Cl
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-(2-chlorophenyl)-1,3,4,6-tetrahydro-8-nitro-2H-5,1-benzothiazocin-2-one | ClC1=C(C=CC=C1)C1SCCC(NC2=C1C=C(C=C2)[N+](=O)[O-])=O | C16H13ClN2O3S
